US05175301
In 50 ml of water was suspended 15.0 g (0.076 mole) of 6-chloro-3-pyridylmethyl chloride hydrochloride and the suspension was adjusted to pH about 8 with a saturated aqueous solution of sodium hydrogen carbonate. The resulting mixture was extracted with ether (100 ml×3) and dried over MgSO4. The ether was then distilled off under reduced pressure to give a crystalline residue. After addition of hexane, the crystals were recovered by filtration, washed with hexane and dried to give 11.0 g of 6-chloro-3-pyridylmethyl chloride as white prisms.

reactant | 6-chloro-3-pyridylmethyl chloride hydrochloride | 0.076 mole, 15.0 g | Cl.ClC1=CC=C(C=N1)CCl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | water | 50 ml | O | H2O
product | 6-chloro-3-pyridylmethyl chloride | 11.0 g | ClC1=CC=C(C=N1)CCl | C6H5Cl2N
